US08110585B2
methyl 3-amino-2-iodobenzoate
A mixture of methyl 2-iodo-3-nitrobenzoate (77.0 g, 251 mmol) and a catalytic amount of Raney nickel in ethyl acetate (100 mL) was stirred under hydrogen atmosphere at room temperature for 2 days, and filtered through celite. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/10) to give the title compound (60.0 g, yield 86%).

reactant | methyl 2-iodo-3-nitrobenzoate | 251 mmol, 77.0 g | IC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C8H6INO4
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3-amino-2-iodobenzoate | 60.0 g, yield 86% | NC=1C(=C(C(=O)OC)C=CC1)I | C8H8INO2
